US05371093
[Thiophene-2-yl][1-(2-phenylethyl)-4-piperidinyl]methanone
Dissolve oxalyl chloride (1.23 g, 9.67 mmol) in methylene chloride (100 mL), place under an argon atmosphere and cool to -78° C. Add dimethylsulfoxide (1.43 mL) and stir for 15 minutes. Add, by dropwise addition, a solution of α-[1-(2-phenylethyl)-4-piperidinyl]-2-thiophenemethanol (2.43 g, 8.06 mmol) in methylene chloride (100 mL). Stir at -78° C. for 30 minutes, then add triethylamine (6.07 mL). Stir at -78° C. for 30 minutes, remove the ice bath and allow to warm to room temperature. Evaporate the solvent in vacuo and partition between methylene chloride and water. Separate the organic phase and extract the aqueous phase with methylene chloride. Combine the organic phases, wash with water and dry (MgSO4). Evaporate the solvent in vacuo and recrystallize (isopropanol) to give the title compound as a white crystalline solid; mp 77°-79° C.

reactant | oxalyl chloride | 9.67 mmol, 1.23 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 1.43 mL | CS(=O)C | C2H6OS
reactant | α-[1-(2-phenylethyl)-4-piperidinyl]-2-thiophenemethanol | 8.06 mmol, 2.43 g | C1(=CC=CC=C1)CCN1CCC(CC1)C(O)C=1SC=CC1 | C18H23NOS
reactant | triethylamine | 6.07 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | [Thiophene-2-yl][1-(2-phenylethyl)-4-piperidinyl]methanone | S1C(=CC=C1)C(=O)C1CCN(CC1)CCC1=CC=CC=C1 | C18H21NOS
